US05942530
A. Preparation of 4-(4-hydroxyphenyl)butyl bromide
A solution of triphenylphosphine (144.1 mmole, 37.80 g) in methylene chloride (556 ml) was treated with bromine (144.1 mmole, 23.03 g) until a pale yellow color persisted. After stirring approximately 15 minutes, a solution of 4-(4-hydroxyphenyl)butanol (96.1 mmole, 15.97 g) and imidazole (192.2 mmole, 13.08 g) in methylene chloride (355 ml) was added over a 15 minute period. Approximately 4 hours later, the reaction suspension was filtered and the filtrate was reduced in volume. To the reduced filtrate was added silica gel and the suspension was reduced to dryness. This material was filtered and the first six fractions were eluted with 10% ethyl acetate:hexane. Fractions 7 through 12 were eluted with 20% ethyl acetate:hexane. Fractions 7 through 10 were combined, reduced in volume, dried over sodium sulfate, filtered and concentrated in vacuo to afford 19.32 g (88%) of the title compound as an oil.

reactant | triphenylphosphine | 144.1 mmole, 37.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 144.1 mmole, 23.03 g | BrBr | Br2
reactant | 4-(4-hydroxyphenyl)butanol | 96.1 mmole, 15.97 g | OC1=CC=C(C=C1)CCCCO | C10H14O2
reactant | imidazole | 192.2 mmole, 13.08 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 556 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 355 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-hydroxyphenyl)butyl bromide | 19.32 g, 88% | OC1=CC=C(C=C1)CCCCBr | C10H13BrO
